US08227615B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methylbenzyl)pyridin-2-yl)cyclopropanecarboxamide (VRT-810361) was synthesized using the procedure of 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(4-methoxybenzyl)pyridin-2-yl)cyclopropanecarboxamide by reacting (2-methylbenzyl)zinc(II) chloride with 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-2-yl)cyclopropanecarboxamide.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(4-methoxybenzyl)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)CC2=CC=C(C=C2)OC | C24H22N2O4
reactant | (2-methylbenzyl)zinc(II) chloride | [Cl-].CC1=C(C[Zn+])C=CC=C1
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)Br | C16H13BrN2O3
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methylbenzyl)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)CC2=C(C=CC=C2)C | C24H22N2O3
